US04782089
2-Amino-3-(4-chlorobenzoyl)-γ-oxobenzenebutanoic acid, ethyl ester
A solution of 13.1 g (0.04 mole) of 7-(4-chlorobenzoyl)-1-H-indole-3-propanoic acid in 450 ml of ethyl acetate and 150 ml of absolute ethanol was treated with ozone until ozone was present above the solution. The solution was then stirred with an aqueous solution of potassium iodide, followed by a wash with aqueous sodium thiosulfate. The organic fraction was concentrated and the residue was dissolved in 250 ml of 190 proof ethanol. The solution was heated to reflux, 150 ml of 6N hydrochloric acid was added, and heating was continued for 18 hr. The mixture was diluted with 400 ml of water and a gummy solid separated. The gum was partitioned between dilute sodium hydroxide solution and methylene chloride. The basic aqueous fraction contained only a small amount of acidic material upon acidification, so it was discarded. The methylene chloride layer was dried over anhydrous sodium sulfate and passed through a column of silica gel. The yellow-colored eluant was concentrated and the crystalline residue was recrystallized from cyclohexane to give 3.5 g (26%) of bright yellow powder, m.p. 112°-115° C.

reactant | 7-(4-chlorobenzoyl)-1-H-indole-3-propanoic acid | 0.04 mole, 13.1 g | ClC1=CC=C(C(=O)C=2C=CC=C3C(=CNC23)CCC(=O)O)C=C1 | C18H14ClNO3
reactant | ozone | O=[O+][O-] | O3
reactant | potassium iodide | [I-].[K+]
reactant | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Amino-3-(4-chlorobenzoyl)-γ-oxobenzenebutanoic acid, ethyl ester | 3.5 g, 26% | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)C(CCC(=O)OCC)=O | C19H18ClNO4
